US07531547B2
2-(2,5-Diiodo-4-methoxy-phenoxy)-but-2-enenitrile (3.47 g, 6.75 mmol) and aniline hydrochloride (3.5 g, 27 mmol) were dissolved in 27 mL ethanol. The reaction mixture was heated to 85° C. and stirred under nitrogen for 18 hours. The reaction mixture was cooled and 25% NaOCH3 in methanol (7.3 mL) was added, followed by guanidine hydrochloride (3.2 g), and ethanol (10 mL). The reaction mixture was heated to 100° C. for 21 hours, then cooled and concentrated under reduced pressure. The residue was poured into water and extracted with dichloromethane. The combined organic layers were dried over Na2SO4, filtered and concentrated under reduced pressure to give 1.2 g of 5-(2,5-Diiodo-4-methoxy-phenoxy)-pyrimidine-2,4-diamine, MS (M+H)=485.

reactant | 2-(2,5-Diiodo-4-methoxy-phenoxy)-but-2-enenitrile | 6.75 mmol, 3.47 g | IC1=C(OC(C#N)=CC)C=C(C(=C1)OC)I | C11H9I2NO2
reactant | aniline hydrochloride | 27 mmol, 3.5 g | Cl.NC1=CC=CC=C1
reactant | NaOCH3 | O([Na])C
reactant | guanidine hydrochloride | 3.2 g | Cl.NC(=N)N
solvent | ethanol | 27 mL | C(C)O | C2H6O
solvent | methanol | 7.3 mL | CO | CH4O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5-(2,5-Diiodo-4-methoxy-phenoxy)-pyrimidine-2,4-diamine | 1.2 g | IC1=C(OC=2C(=NC(=NC2)N)N)C=C(C(=C1)OC)I | C11H10I2N4O2
